US08013003B2
N-Methyl-N-[1-(methylsulfonyl]piperidin-4-yl)-[2,1,3]-benzoxadiazole-5-carboxamide
N-Methyl-N-piperidin-4-yl-[2,1,3]-benzoxadiazole-5-carboxamide hydrochloride (0.38 g, 1.3 mmol) was suspended in chloroform (70 ml) and triethylamine (2 ml) was added. A solution of methane sulfonyl chloride (0.14 g, 1.26 mmol) in chloroform (10 ml) was added and the mixture was stirred at 20° C. for 2 h. The mixture was washed with water (50 ml) and H2SO4 (→pH 2) and NaHCO3 solution (50 ml) and the aqueous re-extracted with dichloromethane (2×50 ml). The combined organics were dried (MgSO4), concentrated under vacuum, and the crude product was purified on a silica gel column eluting with dichloromethane/THF (85:15) to give a white crystalline product, after crystallization from MTBE/hexane (204 mg). Mp=177-179° C., 1H NMR (300 MHz, CDCl3) δ 7.93 (d, J=9.3 Hz, 1H); 7.85 (s, 1H); 7.42 (d, J=9.3 Hz, 1H); 4.75-4.46 and 4.10-3.90 and 3.10-2.40 (m, 5H); 2.92 (s, 3H), 2.83 (s, 3H) and 2.10-1.70 ppm (m, 4H).

reactant | N-Methyl-N-piperidin-4-yl-[2,1,3]-benzoxadiazole-5-carboxamide hydrochloride | 1.3 mmol, 0.38 g | Cl.CN(C(=O)C1=CC=2C(=NON2)C=C1)C1CCNCC1
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 1.26 mmol, 0.14 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-Methyl-N-[1-(methylsulfonyl]piperidin-4-yl)-[2,1,3]-benzoxadiazole-5-carboxamide | CN(C(=O)C1=CC=2C(=NON2)C=C1)C1CCN(CC1)S(=O)(=O)C | C14H18N4O4S
